US04910307
(a) 6-Benzyloxyamino-4-chloro-2,5-diformamido-pyrimidine
A mixture of 4,6-dichloro-2,5-diformamido-pyrimidine (1.9 g, 8.09 mmol), benzyloxyamine (1 g, 8.13 mmol), triethylamine (2 ml) and dioxan (20 ml) was stirred at 100° C. for 1 hour. The cooled reaction mixture was filtered and the precipitate collected and washed with dioxan (2×5 ml). The filtrate and washings were combined and evaporated to a syrup. Column chromatography on silica gel (eluted with chloroform-ethanol, 30:1) afforded the title compound (1.2 g, 46%). IR: νmax (KBr) 3242, 1694, 1588, 1472 cm-1 ; 1H NMR δH [(CD3)2SO], 4.89 (2H, s, OCH2Ph), 7.4 (5H, m, Ph), 8.15 (1H, s, CHO), 9.18, 9.42 (1H, 2×br.s, D2O exchangeable, NH), 9.25 (1H, br.s, CHO), 10.91 (2H, br.s, D2O exchangeable, 2×NH). m/e (FAB+ve ion, thioglycerol) MH+ 322.

reactant | 4,6-dichloro-2,5-diformamido-pyrimidine | 8.09 mmol, 1.9 g | ClC1=NC(=NC(=C1NC=O)Cl)NC=O | C6H4Cl2N4O2
reactant | benzyloxyamine | 8.13 mmol, 1 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 6-Benzyloxyamino-4-chloro-2,5-diformamido-pyrimidine | 1.2 g, 46% | C(C1=CC=CC=C1)ONC1=C(C(=NC(=N1)NC=O)Cl)NC=O | C13H12ClN5O3
